US07291631B2
To a solution of 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine (0.176 g, 0.911 mmol) in CH2Cl2 (10 mL) was added 3-chloroperoxybenzoic acid (0.473 g, 2.75 mmol). The mixture was stirred for 16 h and concentrated by evaporation under vacuum. The residue was purified by flash chromatography on a silica gel column (6:1 EtOAc/MeOH), affording 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine I-oxide as a white solid (0.188 g, 98%). 1H NMR (CDCl3) δ 0.74 (t, 6H, J=7.5 Hz), 1.94 (q, 4H, J=7.5 Hz), 2.80 (s, 3H), 3.01 (s, 3H), 7.07-7.10 (m, 1H), 7.21 (d, 1H, J=8.1 Hz), 8.27 (d, 1H, J=6.3 Hz).

reactant | 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine | 0.911 mmol, 0.176 g | C(C)C(CC)(OC)C=1C(=NC=CC1)C | C12H19NO
reactant | 3-chloroperoxybenzoic acid | 2.75 mmol, 0.473 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine I-oxide | 0.188 g, 98% | C(C)C(CC)(OC)C=1C(=[N+](C=CC1)[O-])C | C12H19NO2
